US05380742
1.3 1-Methyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole hydrobromide.
A mixture of 3.1 g (10.6 mmol) of 1-methyl-5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole and 3.1 g (32.9 mmol) of phenol in 43 ml of a 33% solution of hydrobromic acid in acetic acid, placed in a sealed tube, is heated at 90° C. in a water bath for 3 hours. The reaction mixture is then filtered and poured into 150 ml of water and then extracted with three times 150 ml of diethyl ether. The aqueous phase is evaporated to dryness and the residue washed with acetone. There is obtained 0.64 g of a pasty solid. Yield 27%.

reactant | 1-methyl-5-tosyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole | 10.6 mmol, 3.1 g | CC=1SC=C2C1CN(C2)S(=O)(=O)C2=CC=C(C)C=C2 | C14H15NO2S2
reactant | phenol | 32.9 mmol, 3.1 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Methyl-5,6-dihydro-4H-thieno[3,4-c]pyrrole hydrobromide | 0.64 g, Yield 27% | Br.CC=1SC=C2C1CNC2 | InChI=1S/C7H9NS.BrH/c1-5-7-3-8-2-6(7)4-9-5;/h4,8H,2-3H2,1H3;1H
